US06458806B1
Step B: Preparation of 5-(3,4-dichlorophenyl)-3-methyl-pentadienoic Acid.
A solution of ehtyl 5-(3,4-dichlorophenyl)-3-methyl-pentadienoate (0.120 g, 0.418 mmol) in tetrahydrofuran (0.5 mL) is treated with aqueous 1 M lithium hydroxide (0.5 mL, 0.5 mmol). The cloudy reaction mixture is treated with dioxane (1 mL). After stirring at room temperature for two days, the mixture is concentrated in vacuo. The residue is diluted with 1 M aqueous HCl and extracted several times with chloroform. The organic layers are combined, dried (sodium sulfate), and concentrated in vacuo to yield 0.110 g of a white solid, mp, 212-214° C.

reactant | ehtyl 5-(3,4-dichlorophenyl)-3-methyl-pentadienoate | 0.418 mmol, 0.120 g | ClC=1C=C(C=CC1Cl)C=CC(=CC(=O)OCC)C | C14H14Cl2O2
reactant | lithium hydroxide | 0.5 mmol, 1 M, 0.5 mL | [OH-].[Li+]
reactant | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | 5-(3,4-dichlorophenyl)-3-methyl-pentadienoic Acid | 0.110 g | ClC=1C=C(C=CC1Cl)C=CC(=CC(=O)O)C | C12H10Cl2O2
